US07759518B2
5-Bromo-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-2-sulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine was reacted with 5-bromothiophene-2-sulfonyl chloride to obtain the title compound. 1H NMR (300 MHz, CDCl3): δ 7.39-7.29 (m, 2H), 7.20-7.05 (m, 3H), 6.96 (d, J=3.6 Hz, 1H), 5.85 (dt, J=2.1, 9.0 & 17.4 Hz, 1H), 5.54 (br s, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 5-bromothiophene-2-sulfonyl chloride | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
product | 5-Bromo-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-2-sulfonamide | BrC1=CC=C(S1)S(=O)(=O)NC1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F | C16H9BrF3IN2O2S2
